US08975254B2
a) 2-(1-hydroxy-2-methylpropan-2-yl)isoindoline-1,3-dione
2-Amino-2-methyl-1-propanol (4.46 g, 50 mmol) and phthalic anhydride (7.41 g, 50 mmol) were heated at 170° C. for 30 minutes. Icewater was added to the cooled reaction mixture and then the mixture was extracted three times with DCM. Organic phase was dried over Na2SO4, filtered and evaporated to dryness. Crude product was purified by CombiFlash (column: silica, eluent: 0-10% MeOH in DCM) to obtain 3.611 g (33%) of the title compound. LC-MS: M+1=220.

reactant | 2-Amino-2-methyl-1-propanol | 50 mmol, 4.46 g | NC(CO)(C)C | C4H11NO
reactant | phthalic anhydride | 50 mmol, 7.41 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
product | 2-(1-hydroxy-2-methylpropan-2-yl)isoindoline-1,3-dione | 3.611 g, 33% | OCC(C)(C)N1C(C2=CC=CC=C2C1=O)=O | C12H13NO3
